US05192762
4-[(9,10-Dihydro-9,10-ethanoanthracenyl)methyl]-1-benzylpiperazine (Compound No. 6).
The resulting solution was then treated with a mixture of 1-benzylpiperazine (1.8 gm) and N-methyl-N-phenylaminotriphenylphosphonium iodide (2.5 gm) in dimethylformamide (10 ml). The reaction mixture was heated to 80° C. for 24 hours. The reaction solution was cooled to room temperature, poured into water (75 ml), and the aqueous mixture was extracted with ether (3×50 ml). The combined ether solutions were extracted with 3.6 N sulfuric acid (3×30 ml) and the combined acid extracts were made basic by the addition of excess concentrated aqueous ammonia. The resulting mixture was extracted with ether (3×50 ml) and the combined ether extracts were dried over magnesium sulfate. After removal of the ether on a rotary evaporator, the crude product was purified by preparative centrifugally accelerated radial thin layer chromatography on silica gel using 5% ethanol in methylene chloride as the eluant to provide a white solid. The solid was dissolved in anhydrous ether (50 ml), treated with 3 N hydrochloric acid in isopropyl alcohol (1 ml), and the resulting precipitate was filtered. The precipitate was recrystallized from ethanol to provide the product as a white solid. Analytical data are reported in Table I.

reactant | 1-benzylpiperazine | 1.8 gm | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | N-methyl-N-phenylaminotriphenylphosphonium iodide | 2.5 gm | [I-].CN(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | water | 75 ml | O | H2O
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | isopropyl alcohol | 1 ml | C(C)(C)O | C3H8O
product | 4-[(9,10-Dihydro-9,10-ethanoanthracenyl)methyl]-1-benzylpiperazine | C1(=CC=CC=2C3C4=CC=CC=C4C(C12)CC3)CN3CCN(CC3)CC3=CC=CC=C3 | C28H30N2
